* D:\git\Active-Devices\Labs\lab01 ltSpiceBasics\voltageDivider.asc
* Generated by LTspice 26.0.1 for Windows.
R1 V1 Vin 10k
D1 Vdiode 0 D
V1 Vin 0 10v
R2 Vdiode V1 10k
.model D D
.lib C:\Users\chris\AppData\Local\LTspice\lib\cmp\standard.dio
.tran 3ms
.backanno
.end
